US07189873B2
4-Chloromethyl-2-methoxy-1-pent-2-ynyloxy-benzene (28 g, 0.12 mol) and N-hydroxyphthalimide (19.5 g, 0.12 mol) are dissolved in 180 ml of N,N-dimethylformamide. The reaction mixture is heated to +70° C. and potassium hydroxide (24 ml of a 5 M solution in methanol, 0.12 mol) is added at this temperature. The reaction is stirred for 1 hour at +70° C., subsequently cooled to room temperature and poured on water. This mixture is stirred for one further hour and filtered. The resulting crystalls are washed with water and recrystallized from methanol/acetone (8:1) to yield 2-(3-methoxy-4-pent-2-ynyloxy-benzyloxy)-isoindole-1,3-dione as colourless crystalls.

reactant | 4-Chloromethyl-2-methoxy-1-pent-2-ynyloxy-benzene | 0.12 mol, 28 g | ClCC1=CC(=C(C=C1)OCC#CCC)OC | C13H15ClO2
reactant | N-hydroxyphthalimide | 0.12 mol, 19.5 g | ON1C(C=2C(C1=O)=CC=CC2)=O | C8H5NO3
reactant | potassium hydroxide | [OH-].[K+]
solvent | N,N-dimethylformamide | 180 ml | CN(C=O)C | C3H7NO
solvent | methanol | CO | CH4O
product | 2-(3-methoxy-4-pent-2-ynyloxy-benzyloxy)-isoindole-1,3-dione | COC=1C=C(CON2C(C3=CC=CC=C3C2=O)=O)C=CC1OCC#CCC | C21H19NO5
